US04492708
1-isopropyl-2-amino-6-(1-phenylethenyl)benzimidazole
Three grams (10.7 mmoles) of 1-isopropyl-2-amino-6-benzoylbenzimidazole were dissolved in 25 ml. of tetrahydrofuran, after which was added 27 ml. of a 2M solution of methyl magnesium bromide in ethyl ether. After stirring overnight, ethyl acetate was added, and the solution was washed three times with a saturated sodium chloride solution. The organic solution was dried over magnesium sulfate, filtered, and evaporated under reduced pressure. One hundred milliliters of 98% formic acid were added to the residue. The solution was refluxed for 2 hours. The formic acid was evaporated under reduced pressure. Ethyl acetate was added, and the resulting solution was washed with a saturated sodium bicarbonate solution. After drying over magnesium sulfate, the solution was filtered and concentrated. Upon the addition of a small volume of ether, 2.0 g. of the title product solidified out of solution which was recovered by filtration, M+ =277.

reactant | 1-isopropyl-2-amino-6-benzoylbenzimidazole | 10.7 mmoles, Three grams | C(C)(C)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=O)N | C17H17N3O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methyl magnesium bromide | C[Mg]Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-isopropyl-2-amino-6-(1-phenylethenyl)benzimidazole | C(C)(C)N1C(=NC2=C1C=C(C=C2)C(=C)C2=CC=CC=C2)N | C18H19N3
